US07547788B2
(2-Bromo-4-chloro-5-methoxyphenyl)-(2,2,6,6-tetramethyl-piperidin4-yl)-amine hydrochloric acid salt
A mixture of (4-chloro-3-methoxyphenyl)-(2,2,6,6-tetramethyl-piperidin4-yl)-amine 0.40 g, 1.3 mmol), acetonitrile (10 ml) and NBS (0.23 g, 1.3 mmol) was stirred for 1 h at 100° C. Water (25 ml) was added and the mixture was extracted with diethyl ether (2 x 50 ml). Hydrochloric acid in ether was added and the hydrochloric acid salt was precipitated and stirred, followed by filtration. Yield 0.40 g, (75%). Mp >270° C.

reactant | (4-chloro-3-methoxyphenyl)-(2,2,6,6-tetramethyl-piperidin4-yl)-amine | 1.3 mmol, 0.40 g | ClC1=C(C=C(C=C1)NC1CC(NC(C1)(C)C)(C)C)OC | C16H25ClN2O
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
reactant | NBS | 1.3 mmol, 0.23 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | Water | 25 ml | O | H2O
product | (2-Bromo-4-chloro-5-methoxyphenyl)-(2,2,6,6-tetramethyl-piperidin4-yl)-amine hydrochloric acid salt | Cl.BrC1=C(C=C(C(=C1)Cl)OC)NC1CC(NC(C1)(C)C)(C)C | InChI=1S/C16H24BrClN2O.ClH/c1-15(2)8-10(9-16(3,4)20-15)19-13-7-14(21-5)12(18)6-11(13)17;/h6-7,10,19-20H,8-9H2,1-5H3;1H
